US05928562
Preparation of 5-(4-butoxybutoxy)-2-[4-(5-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentoxy)phenyl)pyrimidine
The title compound was prepared essentially as in Example 12 by combining 5-hydroxy-2-[4-(5-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentoxy)phenyl]pyrimidine (3.0 g, 5.1 mmol) with 4-butoxybutyl chloride (1.0 g, 6.1 mmol). The reaction mixture was quenched with water, and the crude product was further purified by recrystallization from ethanol, followed by Kugelrohr distillation (230-40° C. at 0.5 torr), to provide a yield of 2.4 g.

reactant | 5-hydroxy-2-[4-(5-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentoxy)phenyl]pyrimidine | 5.1 mmol, 3.0 g | OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCOCC(F)(F)OC(C(OC(C(F)(F)F)(F)F)(F)F)(F)F | C21H19F11N2O5
reactant | 4-butoxybutyl chloride | 6.1 mmol, 1.0 g | C(CCC)OCCCCCl | C8H17ClO
product | 5-(4-butoxybutoxy)-2-[4-(5-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)pentoxy)phenyl)pyrimidine | C(CCC)OCCCCOC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCOCC(F)(F)OC(C(OC(C(F)(F)F)(F)F)(F)F)(F)F | C29H35F11N2O6
